US05374772
A solution of 1.6 g (3.15 mmol) of 3,5-bis[2-[2-(naphthalenyloxy) ethoxy]benzoic acid methyl ester and 15 mL (15 mmol) of 1N NaOH in 45 mL of methanol and 20 mL of dioxane was stirred at reflux for 2 hours. The usual workup followed by recrystallization from THF-ethyl acetate gave 1.2 g (77% yield, mp 205°-207°) of 3,5-bis[2-[2-(naphthalenyloxy)ethoxy]benzoic acid.

reactant | 2-[2-(naphthalenyloxy) ethoxy]benzoic acid methyl ester | COC(C1=C(C=CC=C1)OCCOC1=CC=CC2=CC=CC=C12)=O | C20H18O4
reactant | NaOH | 15 mmol, 1N, 15 mL | [OH-].[Na+]
solvent | methanol | 45 mL | CO | CH4O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(naphthalenyloxy)ethoxy]benzoic acid | 77% yield | C1(=CC=CC2=CC=CC=C12)OCCOC1=C(C(=O)O)C=CC=C1 | C19H16O4
